Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Compazine / Amoxicillin
 
Attending: ___
 
Chief Complaint:
recurrent ovarian cancer
 
Major Surgical or Invasive Procedure:
exploratory laparotomy, tumor resection, cystoscopy, umbilical 
hernia repair

 
History of Present Illness:
Ms ___ is a ___ year old  who was diagnosed with grade 1 
Stage IIIC serous adenocarinoma of the ovary in ___.  In ___, she underwent exploratory laparotomy with drainage of 
ascites, bilateral salpingo-oophorectomy, total abdominal 
hysterectomy, bilateral pelvic lymph node sampling, infracolic 
omentectomy, tumor debulking, and rigid proctosigmoidoscopy.  
 
Post-operatively she received six cycles of Taxol, carboplatin, 
and Bevacizumab and then completed maintenance Bevacizumab on 
protocol.  In ___, she restarted Avastin off protocol.  

On ___ CA125 increased to 94 and a CT torso on ___ showed 
a 4.3 cm right pelvic mass consistent with recurrent disease. At 
that time discussed possible treatment options including 
cytoreduction of mass, however patient preferred to postpone 
until the fall.  Patient feels well and reports no symptoms.  
Patient denies any vaginal bleeding, urinary frequency, urgency, 
constipation or diarrhea.  Patient also denies weight loss and 
fatigue. She presents at this time for cytoreduction.  
 
Past Medical History:
PMH: Ovarian cancer, hypertension

PSH: Hysterectomy and debulking surgery 

OB/GYN HISTORY:  She is gravida 1, para 1 woman.  She reports 
her last menstrual cycle was ___ years ago.  She denies any 
history of postmenopausal bleeding.  Her last Pap smear was in 
___.  She denies any history of abnormal Pap smears.  She 
denies any history of pelvic infections.
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
On day of discharge:
VS:T 98.6 BP 151/62 HR 69 RR 18 SpO2 98% RA
General: NAD, comfortable
CV: RRR, no m/r/g
Lungs: CTAB
Abdomen: soft, non-tender, non-distended, +BS
Incision: incision intact with staples, bruising extending 1 cm 
above superior aspect, 2 cm laterally on both sides, and over 
the mons, no active extravasation, becoming more soft, no 
erythema or discharge
Ext: no edema, no tenderness
 
Pertinent Results:
___ 07:50PM BLOOD WBC-11.1* RBC-4.02* Hgb-12.6 Hct-36.2 
MCV-90 MCH-31.3 MCHC-34.7 RDW-13.6 Plt ___
___ 02:40AM BLOOD WBC-7.0 RBC-3.75* Hgb-11.9* Hct-33.6* 
MCV-90 MCH-31.8 MCHC-35.5* RDW-12.6 Plt ___
___ 07:50AM BLOOD WBC-6.8 RBC-3.61* Hgb-11.3* Hct-32.3* 
MCV-90 MCH-31.4 MCHC-35.1* RDW-12.6 Plt ___
___ 08:00AM BLOOD WBC-6.4 RBC-3.68* Hgb-11.7* Hct-33.0* 
MCV-90 MCH-31.7 MCHC-35.4* RDW-12.6 Plt ___

___ 07:50PM BLOOD ___ PTT-32.1 ___
___ 02:40AM BLOOD ___ PTT-32.1 ___
___ 02:40AM BLOOD ___ 02:40AM BLOOD Glucose-97 UreaN-17 Creat-0.9 Na-136 
K-3.7 Cl-102 HCO3-27 AnGap-11
___ 07:50AM BLOOD Glucose-80 UreaN-12 Creat-0.7 Na-136 
K-3.6 Cl-99 HCO3-29 AnGap-12
___ 08:00AM BLOOD Glucose-112* UreaN-9 Creat-0.8 Na-136 
K-3.9 Cl-97 HCO3-34* AnGap-9

___ 02:40AM BLOOD Calcium-8.3* Phos-4.5# Mg-1.8
___ 07:50AM BLOOD Calcium-8.7 Phos-2.3*# Mg-1.8
___ 08:00AM BLOOD Calcium-9.0 Phos-2.7 Mg-2.2

Final pathology:
1.  Pelvic mass, excision (A-G):
1.  Low grade serous neoplasm, see note.
2.  Mesothelial cyst.
Note: Although the current sample does not show infiltrative 
invasion, the appearance is consistent with recurrence of the 
patient's known ovarian low-grade serous carcinoma ___ 
___.

2.  Hernia sac (H):
1.  Fibroadipose and vascular tissue consistent with hernia sac.
2.  Psammoma bodies are noted, but no malignancy identified.

 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology 
oncology service after undergoing exploratory laparotomy, tumor 
resection, cystoscopy, and umbilical hernia repair. Please see 
the operative report for full details.  

Immediately post-op, her pain was controlled with IV dilaudid, 
toradol, and acetaminophen. On the afternoon of post-operative 
day 0, her incision dressing was noted to be saturated with 
blood and incision was oozing. Pressure dressing was applied and 
toradol and heparin were held. CBC and coags were obtained and 
were within normal limits. Overnight on post-operative day 0, 
patient was noted to have low urine output. She received a fluid 
bolus and urine output increased appropriately. There was no 
evidence for bleeding and CBC and coags were stable. On 
post-operative day 1, pressure dressing was changed with minimal 
staining on dressing. Heparin was restarted for DVT prophylaxis. 


On post-operative day 1, her urine output was adequate and she 
was ambulatory so her foley was removed and she voided 
spontaneously. On post-operative day 2, her diet was advanced 
without difficulty to regular and she was transitioned to PO 
percocet and ibupofen. 

By post-operative day 3, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. She was then discharged home 
in stable condition with outpatient follow-up scheduled with Dr. 
___.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. anastrozole *NF* 1 mg Oral daily 
2. Hydrochlorothiazide 25 mg PO DAILY 
3. Lisinopril 40 mg PO DAILY 
4. Docusate Sodium 100 mg PO BID 

 
Discharge Medications:
1. anastrozole *NF* 1 mg Oral daily 
2. Hydrochlorothiazide 25 mg PO DAILY 
3. Lisinopril 40 mg PO DAILY 
4. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*2
5. Ibuprofen 600 mg PO Q6H:PRN pain 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*60 Tablet Refills:*2
6. Oxycodone-Acetaminophen (5mg-325mg) ___ TAB PO Q4H:PRN pain 
RX *oxycodone-acetaminophen 5 mg-325 mg ___ tablet(s) by mouth 
every four (4) hours Disp #*60 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
recurrent ovarian cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
  
You were admitted to the gynecologic oncology service after 
undergoing the procedures listed below. You have recovered well 
after your operation, and the team feels that you are safe to be 
discharged home. Please follow these instructions:  

* Take your medications as prescribed.  
* Do not drive while taking narcotics.  
* Do not combine narcotic and sedative medications or alcohol  
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs  
* No strenuous activity until your post-op appointment  
* Nothing in the vagina (no tampons, no douching, no sex) for 12 
weeks.  
* No heavy lifting of objects >10 lbs for 6 weeks.  
* You may eat a regular diet  

Incision care:  
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No bath tubs for 6 weeks.    
* If you have staples, they will be removed at your follow-up 
visit.  
 
To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.  

 
Followup Instructions:
___